US04912102
A mixture of 0.5 g (0.004 mol) of nicotinic acid and 0.7 g (0.004 mol) of 1,1'-carbonyldiimidazole in 20 ml of dry tetrahydrofuran was stirred at room temperature for 1 hour. To the solution was added 1.3 g (0.003 mol) of (±)-cis-2,3-dihydro-3-hydroxy-2-(4-methoxyphenyl)-5-(2-(dimethylamino)ethyl]naphtho[1,2-b][1,4]thiazepin-4(5H)-one and the reaction mixture was stirred at room temperature for 17 hours. After concentrating to dryness the residue was partitioned between ethyl acetate and dilute ammonium hydroxide. The ethyl acetate solutions were washed with brine and dried (MgSO4). Removal of the solvent at reduced pressure gave 2.2 g of crude base which was dissolved in acetone and acidified with hydrogen chloride (anhydrous). The resulting crystals were separated to afford 1.9 g (99%) of (±)-cis-2,3-dihydro-2-(4-methoxyphenyl)-5-[2-(dimethylamino)ethyl]-3-[(3-pyridinylcarbonyl)oxy]naphtho[1,2-b][1,4]thiazepin-4 (4H)-one dihydrochloride (4:5) hydrate, mp 178°-179°.

reactant | nicotinic acid | 0.004 mol, 0.5 g | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | 1,1'-carbonyldiimidazole | 0.004 mol, 0.7 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (±)-cis-2,3-dihydro-3-hydroxy-2-(4-methoxyphenyl)-5-(2-(dimethylamino)ethyl]naphtho[1,2-b][1,4]thiazepin-4(5H)-one | 0.003 mol, 1.3 g | O[C@H]1C(N(C2=C(S[C@H]1C1=CC=C(C=C1)OC)C1=CC=CC=C1C=C2)CCN(C)C)=O | C24H26N2O3S
reactant | hydrogen chloride | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | acetone | CC(=O)C | C3H6O
product | (±)-cis-2,3-dihydro-2-(4-methoxyphenyl)-5-[2-(dimethylamino)ethyl]-3-[(3-pyridinylcarbonyl)oxy]naphtho[1,2-b][1,4]thiazepin-4 (4H)-one dihydrochloride | 1.9 g, 99% | Cl.Cl.COC1=CC=C(C=C1)[C@H]1[C@H](C(N(C2=C(S1)C1=CC=CC=C1C=C2)CCN(C)C)=O)OC(=O)C=2C=NC=CC2 | InChI=1S/C30H29N3O4S.2ClH/c1-32(2)17-18-33-25-15-12-20-7-4-5-9-24(20)28(25)38-27(21-10-13-23(36-3)14-11-21)26(29(33)34)37-30(35)22-8-6-16-31-19-22;;/h4-16,19,26-27H,17-18H2,1-3H3;2*1H/t26-,27+;;/m1../s1
